US06642234B1
3) Synthesis of (5-Ethyl-2-phenyl-1,2,3-triazol-4-yl)methan-1-ol
11.55 g of ethyl-5-ethyl-2-phenyl-1,2,3-triazole-4-carboxylate dissolved in a mixed solvent of 150 ml of ether and 30 ml of THF was added dropwise at 3-8° C. to LiAIH4 suspended in 100 ml of ether. After stirring overnight at room temperature, a small amount of saturated sodium sulfate solution was added thereto. Insoluble materials were filtered off, and the filtrate was dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 9.40 g of the aimed compound.

reactant | ethyl-5-ethyl-2-phenyl-1,2,3-triazole-4-carboxylate | 11.55 g | C(C)OC(=O)C1=NN(N=C1CC)C1=CC=CC=C1 | C13H15N3O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (5-Ethyl-2-phenyl-1,2,3-triazol-4-yl)methan-1-ol | 9.40 g | C(C)C=1C(=NN(N1)C1=CC=CC=C1)CO | C11H13N3O
